US08563575B2
A mixture of 3-[4-(benzyloxy)phenyl]-1-(difluoromethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (420 mg) and 10% Pd—C (60.8 mg) in EtOH (50 ml) was hydrogenated under balloon pressure at room temperature for 3 h. The catalyst was removed by filtration and the filtrate was concentrated in vacuo to give 1-(difluoromethyl)-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (300 mg) as a white solid.

reactant | 3-[4-(benzyloxy)phenyl]-1-(difluoromethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 420 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=CC2)C(F)F)=O | C20H15F2N3O2
solvent | EtOH | 50 ml | CCO | C2H6O
catalyst | Pd—C | 60.8 mg | [Pd] | Pd
product | 1-(difluoromethyl)-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 300 mg | FC(N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)O)=O)F | C13H9F2N3O2
